US05474919
Methyl 3(R)-hydroxyhexanoate
Methyl 3-ketohexanoate (44.7 g, 310 mmol) was diluted with methanol (75 mL) and 0.2N HCl (2 mL). Et2NH2 +Ru2Cl5- (BINAP)2 (200 mg) was added and the mixture was heated at 60° under 100 psi of hydrogen for 2 hours. Toluene (100 mL) was added and the mixture was concentrated to an oil weighing 75 g.

reactant | Methyl 3-ketohexanoate | 310 mmol, 44.7 g | O=C(CC(=O)OC)CCC | C7H12O3
reactant | hydrogen | [H][H] | H2
reactant | Toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 75 mL | CO | CH4O
solvent | HCl | 0.2N, 2 mL | Cl | ClH
product | Methyl 3(R)-hydroxyhexanoate | O[C@@H](CC(=O)OC)CCC | C7H14O3
